US06852730B2
7.8 mL of 1.7 M of t-BuLi in pentane is added dropwise under argon to a stirred solution of 1-bromo-3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene (1.4 g) in 75 mL of anhydrous THF at −78° C. After addition, dry carbon dioxide is bubbled into the mixture at the same temperature for 2 hours. The reaction mixture is allowed to warm to room temperature, quenched with 1N HCl solution, and diluted with water. The mixture is basified with 1N NaOH to pH 8-9, and then extracted with EtOAc. The aqueous layer is then acidified with HOAc to pH 4-5 and extracted with CH2Cl2 eight times. The combined extracts are washed with water, dried, and concentrated to give 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene-1-carboxylic acid as a tan solid. 1H NMR(DMSO): 1.95(m, 2H), 2.96(m, 2H), 3.07(t, 2H), 7.45(m,1H), 7.97(d,1H), 8.52(d, 2H). LR-MS: MW 229.23, Found: 230.2(M+1). Step 6: A mixture of 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene-1-carboxylic acid (80 mg), 1-(3-azetidin-1-yl-propyl)-1H-pyrazol-3-ylamine (68 mg), EDCI(85 mg) and DMAP(55 mg) in 10 mL of 1,2-dichloroethane is refluxed overnight, cooled and diluted with CH2Cl2. The mixture is washed with aqueous NaHCO3 solution, water, dried over Na2SO4 and concentrated under vacuum. Purification on a silica gel plate, eluting with 10% MeOH in CH2Cl2 yields 12 mg of 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene-1-carboxylic acid [1-(3-azetidin-1-yl-propyl)-1H-pyrazol-3-yl]-amide as a colorless foam. 1H NMR (CDCl3): 2.01-2.31(m, 6H), 2.67-2.92(m, 8H), 3.63(m, 2H), 4.17(t, 2H), 6.65(d, 1H), 7.23(m, 1H), 7.33(d, 1H), 7.65(d, 1H), 8.62(d, 1H), 14.13(bs, 1H). LR-MS: MW 391.48, Found: 392.2 (M+1).

reactant | 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene-1-carboxylic acid | 80 mg | C1(=NNC=2CCCC3=C(C12)N=CC=C3)C(=O)O | C12H11N3O2
reactant | 1-(3-azetidin-1-yl-propyl)-1H-pyrazol-3-ylamine | 68 mg | N1(CCC1)CCCN1N=C(C=C1)N | C9H16N4
reactant | EDCI | 85 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 55 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,4,5,6-tetrahydro-2,3,10-triaza-benzo[e]azulene-1-carboxylic acid [1-(3-azetidin-1-yl-propyl)-1H-pyrazol-3-yl]-amide | 12 mg | N1(CCC1)CCCN1N=C(C=C1)NC(=O)C1=NNC=2CCCC3=C(C12)N=CC=C3 | C21H25N7O
